US07091214B2
5-(Biphenyl-3-ylaminomethylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione (160.2 g, 496 mmol) was dissolved in 800 mL of DOWTHERM A heat transfer fluid at 100° C. and added over 40 min by way of a cannula line to 1.3 L of preheated DOWTHERM A heat transfer fluid to 215° C. After complete addition, the reaction was held at 215° C. for 90 min and then cooled to RT. The resulting solid was collected by filtration, sequentially washed with diethyl ether (1.7 L) and acetone (500 mL), and then dried in a vacuum oven at 70° C. overnight. The resulting product (74.5 g) contained approximately 5% of the undesired isomer. This product was combined with material from a separate run (51.4 g) and slurried in 440 mL of refluxing ethanol. Filtration of the slurry while hot followed by sequential ethanol and diethyl ether rinses afforded 106.1 g of 7-phenylquinolin-4-ol as a tan solid.

reactant | 5-(Biphenyl-3-ylaminomethylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione | 496 mmol, 160.2 g | C1(=CC(=CC=C1)NC=C1C(OC(OC1=O)(C)C)=O)C1=CC=CC=C1 | C19H17NO4
solvent | DOWTHERM A | 800 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | DOWTHERM A | 1.3 L | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 7-phenylquinolin-4-ol | 106.1 g | C1(=CC=CC=C1)C1=CC=C2C(=CC=NC2=C1)O | C15H11NO
